US07091222B2
Step 5: (1-Cyclopropyl-2,5-dimethyl-1H-imidazol-4-yl)-methanol
Cyclopropyl-2,5-dimethyl-1H-imidazole-4-carboxylic acid ethyl ester (0.7 g, 3 mmol) was dissolved in 20 mL dry THF and cooled to 0° C. Lithium aluminum hydride (3.4 mL, 1M in THF, 3 mmol) was added dropwise and stirred for 1 h at 0° C. The reaction mixture was quenched with 0.13 ml of water, 0.13 ml of 4N sodium hydroxide and 0.4 ml of water. Sodium sulfate was added, stirred for 10 min, filtered and evaporated to dryness to obtain the desired compound as a light yellow solid (0.52 g, 93%), MS: m/e=167.4 (M+H)+.

reactant | Cyclopropyl-2,5-dimethyl-1H-imidazole-4-carboxylic acid ethyl ester | 3 mmol, 0.7 g | C(C)OC(=O)C=1N=C(N(C1C)C1CC1)C | C11H16N2O2
reactant | Lithium aluminum hydride | 3 mmol, 1M, 3.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1-Cyclopropyl-2,5-dimethyl-1H-imidazol-4-yl)-methanol | 0.52 g, 93% | C1(CC1)N1C(=NC(=C1C)CO)C | C9H14N2O
